US07989463B2
Step (ii): Synthesis of 1-[4-(4-Morpholin-4-yl-6,7-dihydro-5H-cyclopentapyrimidin-2-ylamino)-phenyl]-cyclobutanecarboxylic acid methyl ester
A solution of 2-chloro-4-morpholin-4-yl-6,7-dihydro-5H-cyclopentapyrimidine (0.53 g, 2.8 mmol) and 1-(4-amino-phenyl)-cyclobutanecarboxylic acid methyl ester (0.57 g, 2.8 mmol) in anhydrous isopropanol (10 mL) was stirred under reflux for 18 hours. After cooling to a temperature in the range of 25° C. to 40° C., the mixture was concentrated under reduced pressure. The crude residue was purified by column chromatography (silica gel) to afford the title compound as a white solid (0.24 g, 27% yield).

reactant | 2-chloro-4-morpholin-4-yl-6,7-dihydro-5H-cyclopentapyrimidine | 2.8 mmol, 0.53 g | ClC1=NC2=C(C(=N1)N1CCOCC1)CCC2 | C11H14ClN3O
reactant | 1-(4-amino-phenyl)-cyclobutanecarboxylic acid methyl ester | 2.8 mmol, 0.57 g | COC(=O)C1(CCC1)C1=CC=C(C=C1)N | C12H15NO2
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | 1-[4-(4-Morpholin-4-yl-6,7-dihydro-5H-cyclopentapyrimidin-2-ylamino)-phenyl]-cyclobutanecarboxylic acid methyl ester | 0.24 g, 27% yield | COC(=O)C1(CCC1)C1=CC=C(C=C1)NC1=NC2=C(C(=N1)N1CCOCC1)CCC2 | C23H28N4O3
